US03989750
In a 300 ml flask, there were charged n-pentane (100 ml) and (-)-trans-2,2-dimethyl-3-isobutenylcyclopropane-1-carboxylic acid (50.0 g), and thionyl chloride (46.0 g) was added thereto from a dropping funnel in 20 minutes with stirring under reflux. After completion of the addition, stirring was continued for a further 3 hours, and then the solvent and excess of the thionyl chloride were removed by distillation. The residue was distilled to give (-)-trans-2,2-dimethyl-3-isobutenylcyclopropane-1-carboxylic acid chloride (53.9 g) having a boiling point of 50° C/0.5 mmHg - 56° C/0.6 mmHg. Other cyclopropanecarboxylic acid halides were prepared in the same manner as above.

reactant | (-)-trans-2,2-dimethyl-3-isobutenylcyclopropane-1-carboxylic acid | 50.0 g | CC1([C@H]([C@@H]1C=C(C)C)C(=O)O)C | C10H16O2
reactant | thionyl chloride | 46.0 g | S(=O)(Cl)Cl | Cl2OS
solvent | n-pentane | 100 ml | CCCCC | C5H12
product | (-)-trans-2,2-dimethyl-3-isobutenylcyclopropane-1-carboxylic acid chloride | 53.9 g | CC1([C@H]([C@@H]1C=C(C)C)C(=O)Cl)C | C10H15ClO
